US08633312B2
(S)-2-(2,4-Difluorophenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (12a)
For the synthesis of the title compound, 0.81 g (0.0022 mol) of (S)-2-chloro-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.25 g (0.0019 mol) of 2,4-difluoroaniline, 2 spatula tips of Pd(OAc)2, 0.14 g of phosphine ligand and 0.70 g (0.0073 mol) of NaOtert-Bu in 10 ml of toluene and 2 ml of tert-BuOH are reacted by method O. Purification is carried out by column chromatography (flash; SiO2; hexane 80%/ethyl acetate 20%).

reactant | (S)-2-chloro-1-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 0.0022 mol, 0.81 g | ClC1=C(C2=C(C(C3=C(CC2)C=CC=C3)=O)C=C1)OC[C@@H]1OC(OC1)(C)C | C21H21ClO4
reactant | 2,4-difluoroaniline | 0.0019 mol, 0.25 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | phosphine | 0.14 g | P | H3P
reactant | NaOtert-Bu | 0.0073 mol, 0.70 g | O([Na])C(C)(C)C
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | tert-BuOH | 2 ml | C(C)(C)(C)O | C4H10O
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-2-(2,4-Difluorophenylamino)-8-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | FC1=C(C=CC(=C1)F)NC1=CC2=C(C(C3=C(CC2)C=C(C=C3)OC[C@@H]3OC(OC3)(C)C)=O)C=C1 | C27H25F2NO4
